US03960854
Step A-1: Preparation of 2-sulfamoyl-4-isopropylthio-5-chloroaniline
6-Chloro-7-isopropylthio-1,2,4-benzothiadiazine-1,1-dioxide (0.03 mole), prepared as described in Example 2, is dissolved in 10% aqueous sodium hydroxide (50 ml.) and heated on the steam bath for 1 hour. The solution is chilled, acidified with hydrochloric acid and the product upon recrystallization from a mixture of ethanol and water melts at 137°-138° C.

reactant | 6-Chloro-7-isopropylthio-1,2,4-benzothiadiazine-1,1-dioxide | 0.03 mole | ClC=1C(=CC2=C(N=CNS2(=O)=O)C1)SC(C)C | C10H11ClN2O2S2
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 50 ml | [OH-].[Na+]
product | 2-sulfamoyl-4-isopropylthio-5-chloroaniline | S(N)(=O)(=O)C1=C(N)C=C(C(=C1)SC(C)C)Cl | C9H13ClN2O2S2
